US07935830B2
Step B. 5-Methoxy-inden-1-one
DBU (9.2 mL, 61.7 mmol) was added to a solution of 5-methoxy-3-bromo-1-indanone (14.8 g, 61.7 mmol) in THF (100 mL) at −10° C. dropwise over 10 minutes. The resulting solution was stirred at −10° C. for 20 minutes, quenched via addition of saturated aqueous NH4Cl (100 mL), and extracted with EtOAc (3×100 mL). The combined organic extracts were washed with brine (100 mL), dried over MgSO4, and concentrated. The crude product was purified by column chromatography (SiO2) using a 0-35% ethyl acetate-hexanes gradient to afford 5.4 g (55%-two steps) of the subtitle compound. 1H NMR (CDCl3 300 MHz) δ 7.42 (d, 1H), 7.38 (d, 1H), 6.62 (s, 1H), 6.60 (d, 1H), 5.89 (d, 1H), 3.85 (s, 3H) ppm. MS calculated for C10H8O2+H: 161, observed: 161.

reactant | DBU | 61.7 mmol, 9.2 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-methoxy-3-bromo-1-indanone | 61.7 mmol, 14.8 g | COC=1C=C2C(CC(C2=CC1)=O)Br | C10H9BrO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-Methoxy-inden-1-one | COC=1C=C2C=CC(C2=CC1)=O | C10H8O2
